US06777421B2
To a mixture of 2-bromobenzaldehyde (1.17 mL, 10.0 mmol) and 2.0 M aqueous sodium carbonate (75 mL) in DME (225 mL) were added thiophene-2-boronic acid (1.53 g, 12.0 mmol) and tetrakis(triphenylphosphine)palladium[0] (578 mg, 0.5 mmol). The mixture was heated to reflux under nitrogen for 16 hr. The resulting solution was cooled, and the crude product was extracted from aqueous solution with ethyl acetate. The organic layer was dried over MgSO4, and the solvents were removed under vacuum. The crude product was purified on flash column with 25% DCM in hexane to yield 2-(2-thienyl)benzaldehyde.

reactant | 2-bromobenzaldehyde | 10.0 mmol, 1.17 mL | BrC1=C(C=O)C=CC=C1 | C7H5BrO
reactant | sodium carbonate | 2.0 M, 75 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | thiophene-2-boronic acid | 12.0 mmol, 1.53 g | S1C(=CC=C1)B(O)O | C4H5BO2S
solvent | DME | 225 mL | COCCOC | C4H10O2
product | 2-(2-thienyl)benzaldehyde | S1C(=CC=C1)C1=C(C=O)C=CC=C1 | C11H8OS
